US04263037
(a) 2-Methoxy-5-chloro-α-isopropylbenzyl cyanide
To a stirred suspension of sodium hydride (2.4 g) in dimethylformamide (100 ml) was added a solution of 2-bromopropane and 2-methoxy-5-chlorobenzyl cyanide (18.2 g) in dry dimethylformamide (50 ml), keeping the temperature at 20°-30° C. The mixture was then stirred for 30 minutes, water was added cautiously, and the mixture was then poured into ice-water. Hydrochloric acid was then added and the mixture was extracted with dichloromethane, washed with water then with sodium chloride solution, then dried over magnesium sulphate, filtered, and the solvent was then removed to give 25 g of a brown oil. Distillation gave the title product (15 g) as a colourless oil, bp 180° C./20 mm Hg.

reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | 2-methoxy-5-chlorobenzyl cyanide | 18.2 g | COC1=C(CC#N)C=C(C=C1)Cl | C9H8ClNO
reactant | Hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Methoxy-5-chloro-α-isopropylbenzyl cyanide | 25 g | COC1=C(C(C(C)C)C#N)C=C(C=C1)Cl | C12H14ClNO
